US03953499
A solution of 3 g. of 4-methyl-3-nonen-1-ol in a mixture of 20 ml. of ether and 1.25 ml. of pyridine under nitrogen is cooled in an ice-salt bath and stirred while 2.7 ml. of phosphorus tribromide is added slowly. The ice bath is removed and the mixture is allowed to warm to room temperature, then is heated under reflux for about 2.5 hrs. The mixture is then cooled in an ice bath while 10 ml. of water is added slowly. The layers are separated and the ether layer is washed with water, saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dried over sodium sulfate, and evaporated, giving a residue comprising 1-bromo-4-methyl-3-nonene.

reactant | 4-methyl-3-nonen-1-ol | CC(=CCCO)CCCCC | C10H20O
reactant | ether | CCOCC | C4H10O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-bromo-4-methyl-3-nonene | BrCCC=C(CCCCC)C | C10H19Br
